US04324729
A mixture of 200 g of but-3-yn-2-ol and 240 g of ethylvinyl ether was added dropwise, at 30° and under nitrogen atmosphere, to 2 g of previously dried KHSO4. After stirring for 2 hours at 30° the reaction mixture was neutralized with 10 g of Na2CO3, then filtered, the organic phase being finally distilled on a VIGREUX column to give 369 g (91% yield) of 2-(3-oxa-pent-2-yloxy)-but-3-yne having b.p. 31°/16 Torr.

reactant | but-3-yn-2-ol | 200 g | CC(C#C)O | C4H6O
reactant | ethylvinyl ether | 240 g | C(C)OC=C | C4H8O
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
catalyst | Na2CO3 | 10 g | C(=O)([O-])[O-].[Na+].[Na+]
product | 2-(3-oxa-pent-2-yloxy)-but-3-yne | 369 g, 91% yield | CC(OCC)OC(C)C#C | C8H14O2
